US04119635
EXAMPLE 55: 1-Methyl-3-(3-chlorophenyl)-5-(o-tolyl)-1,2,4-triazole
A mixture of 6.85 g. of 1-methyl-1-(o-toluyl)-hydrazine, 13.8 g. of m-chlorobenzimidic acid ethyl ester and 1.8 g. of the hydrochloride of m-chlorobenzimidic acid ethyl ester is heated with stirring under vacuum for 18 hours and simultaneously ethanol and m-chlorobenzonitrile are distilled off. Then, maintaining the temperature at about 65° C, 40 ml. of ethanol are added followed by a sodium ethylate solution prepared from 0.336 g. of sodium and 20 ml. of ethanol. The mixture is refluxed for 6 hours and after standing over night, the insoluble precipitate is filtered off. The filtrate is evaporated to dryness. The residue is dissolved in 100 ml. of diethyl ether and after washing the organic layer successively with aqueous 5% Na2CO3, 5% HCl and water, the solution is dried over sodium sulfate. The crude product obtained by evaporation of the diethyl ether solution is crystallized from ethanol. Yield 66%. M.p. 77°-78° C.

reactant | 1-methyl-1-(o-toluyl)-hydrazine | CN(N)C1=C(C=CC=C1)C | C8H12N2
reactant | m-chlorobenzimidic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)Cl)=N | C9H10ClNO
reactant | hydrochloride | Cl | ClH
reactant | sodium | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
product | 1-Methyl-3-(3-chlorophenyl)-5-(o-tolyl)-1,2,4-triazole | Yield 66% | CN1N=C(N=C1C1=C(C=CC=C1)C)C1=CC(=CC=C1)Cl | C16H14ClN3
